US08648066B2
To a solution of ethyl 4-(4-bromophenyl)-1H-imidazole-2-carboxylate (1.30 g, 4.40 mmol) in THF (30 mL) was slowly added Red-Al (65 wt % in toluene, 2.0 mL, 6.16 mmol) at −25° C. The reaction mixture was stirred for 4 h at the same temperature then slowly warmed to 0° C. over 1 h and quenched with 20% sodium tartrate solution (30 mL). The reaction was extracted with ethyl acetate (70 mL) and the organic layer was left for 3 h at room temperature. A solid separated and was collected by filtration, washed with ethyl acetate and dried to afford (4-(4-bromophenyl)-1H-imidazol-2-yl)methanol (778 mg, 71.0%). MS (EI) for C10H9BrN2O: 254.1 (MH+).

reactant | ethyl 4-(4-bromophenyl)-1H-imidazole-2-carboxylate | 4.40 mmol, 1.30 g | BrC1=CC=C(C=C1)C=1N=C(NC1)C(=O)OCC | C12H11BrN2O2
reactant | Red-Al | 6.16 mmol, 2.0 mL | COCCO[AlH2-]OCCOC.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4-(4-bromophenyl)-1H-imidazol-2-yl)methanol | 778 mg, 71.0% | BrC1=CC=C(C=C1)C=1N=C(NC1)CO | C10H9BrN2O
